US06706717B2
D. 6-Bromo-N-(5-bromo-2-thiazolyl)pyridin-2-amine
A solution of bromine (1.1 mL, 20.9 mmol) in acetic acid (15 mL) was added dropwise to a solution of 2-[(6-bromo-2-pyridinyl)amino]thiazole (2.68 g, 10.46 mmol) in acetic acid (23 mL) at 40° C. After addition, the mixture was stirred at rt. for 3 h. The mixture was diluted with aqueous potassium hydrogen sulfate solution (60 mL) at 0° C. and stirred for several min. The precipitated solid was filtered, washed several times with water and dried in vacuo over P2O5 to obtain the titled compound (3.28 g, 94%) as an off-white solid.

reactant | bromine | 20.9 mmol, 1.1 mL | BrBr | Br2
reactant | 2-[(6-bromo-2-pyridinyl)amino]thiazole | 10.46 mmol, 2.68 g | BrC1=CC=CC(=N1)NC=1SC=CN1 | C8H6BrN3S
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 23 mL | C(C)(=O)O | C2H4O2
solvent | potassium hydrogen sulfate | 60 mL | S(=O)(=O)(O)[O-].[K+]
product | 6-Bromo-N-(5-bromo-2-thiazolyl)pyridin-2-amine | 3.28 g, 94% | BrC1=CC=CC(=N1)NC=1SC(=CN1)Br | C8H5Br2N3S
